US07985879B2
In a separate reaction vessel, a mixture of sodium hydroxide (0.603 Kg) and methanol (3.18 Kg) was stirred until the sodium hydroxide was completely dissolved and then N-methyl-N-(2-[4-hydroxyphenyl]ethyl) amine HBr salt (A12 HBr) (1 kg, by assay) in methanol (1.58 Kg) was added under an atmosphere of nitrogen. After stirring, the above mixture was concentrated to provide N-methyl-N-(2-[4-hydroxyphenyl]ethyl) amine as a slurry. The solution was cooled to about 5° C. under an atmosphere of nitrogen and then stirred for about 0.5 hours.

reactant | sodium hydroxide | 0.603 Kg | [OH-].[Na+]
reactant | N-methyl-N-(2-[4-hydroxyphenyl]ethyl) amine HBr salt | 1 kg | Br.CNCCC1=CC=C(C=C1)O
solvent | methanol | 1.58 Kg | CO | CH4O
solvent | methanol | 3.18 Kg | CO | CH4O
product | N-methyl-N-(2-[4-hydroxyphenyl]ethyl) amine | CNCCC1=CC=C(C=C1)O | C9H13NO
